US07348322B2
2-Ethoxy-3-[1-(2-trifluoromethyl-phenyl)-cyclobutyl]-acrylic acid
4.6 g of 2-Ethoxy-3-[1-(2-trifluoromethyl-phenyl)-cyclobutyl]-acrylic acid ethyl ester, 4.3 g of sodium hydroxide, 100 ml ethanol and 50 ml water (ethanol-water 2:1) were mixed and stirred for 2 hours at room temperature. Solvent was evaporated in vacuum, residue was distributed between water and ethyl acetate, and water solution was acidified with IN hydrochloric acid, and extracted with ethyl acetate. The ethyl acetate extracts were washed with saturated aqueous sodium chloride solution, dried and concentrated by evaporation in a vacuum. 4.3 g of product was obtained and used for the next reaction without further purification.

reactant | 2-Ethoxy-3-[1-(2-trifluoromethyl-phenyl)-cyclobutyl]-acrylic acid ethyl ester | 4.6 g | C(C)OC(C(=CC1(CCC1)C1=C(C=CC=C1)C(F)(F)F)OCC)=O | C18H21F3O3
reactant | sodium hydroxide | 4.3 g | [OH-].[Na+]
reactant | ethanol | 100 ml | C(C)O | C2H6O
solvent | water | 50 ml | O | H2O
product | 2-Ethoxy-3-[1-(2-trifluoromethyl-phenyl)-cyclobutyl]-acrylic acid | 4.3 g | C(C)OC(C(=O)O)=CC1(CCC1)C1=C(C=CC=C1)C(F)(F)F | C16H17F3O3
